US06605607B1
7-Acetyl-3-(tert-butyloxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
To a stirred solution of 3-(tert-butyloxycarbonyl)-7-trifluoromethylsulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine (10 g, 25.3 mmol) in anhydrous dimethylformamide (100 ml) under argon at room temperature, was added triethylamine (7.05 ml, 50.6 mmol), butyl vinyl ether (16.4 ml, 126.6 mmol), 1,3-bis(diphenylphosphino)propane (0.412 g, 1 mmol) and palladium acetate (0.202 g, 0.9 mmol) sequentially. The resultant mixture was heated at 85° C. for 1.5 h and cooled to room temperature. 4% Aqueous hydrochloric acid (150 ml) was added and stirring continued for 0.5 h. The reaction mixture was extracted with dichloromethane (3×300 ml) and the combined organics washed with water (4×500 ml), dried (Na2SO4) and evaporated in vacuo to afford a brown gum. Chromatography on silica gel with 0-30% ethyl acetate-hexane gradient elution gave the title compound (5.8 g, 79%) as a colourless solid.

reactant | 3-(tert-butyloxycarbonyl)-7-trifluoromethylsulfonyloxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 25.3 mmol, 10 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C16H20F3NO5S
reactant | triethylamine | 50.6 mmol, 7.05 ml | C(C)N(CC)CC | C6H15N
reactant | butyl vinyl ether | 126.6 mmol, 16.4 ml | C(=C)OCCCC | C6H12O
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.9 mmol, 0.202 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 1 mmol, 0.412 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | 7-Acetyl-3-(tert-butyloxycarbonyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 5.8 g, 79% | C(C)(=O)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H23NO3
